US07915332B2
Preparation of 4-Iodo-phenoxy-benzophenone
A 1000 mL 3-necked round-bottomed flask fitted with a Dean-Stark trap, condenser, stir-bar and nitrogen gas adaptor was charged with 4-iodophenol (19.0 g, 0.086 mol), 4-fluorobenzophenone (15.72 g, 0.079 mol), potassium carbonate (7.16 g, 0.0518 mol), DMF (157 mL) and toluene (16 mL). The resulting mixture was stirred and refluxed for 2 hours (solution temperature ˜160° C.) under nitrogen atmosphere. Water was collected at the trap during this period of time. After 2 hours, the reaction was cooled to room temperature, and water (400 mL) was added to the reaction mixture and the desired product precipitated out of solution as a cream white solid. The product was further purified by re-crystallization isopropanol (400 mL) to give the desired product as a white crystalline solid (25 g, 87% yield).

reactant | 4-iodophenol | 0.086 mol, 19.0 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | 4-fluorobenzophenone | 0.079 mol, 15.72 g | FC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9FO
reactant | potassium carbonate | 0.0518 mol, 7.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 157 mL | CN(C)C=O | C3H7NO
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Iodo-phenoxy-benzophenone | 25 g, 87% yield | IC1=CC=C(OC2=C(C(=O)C3=CC=CC=C3)C=CC=C2)C=C1 | C19H13IO2
